US05639752
3-(2-Dimethylaminoethyl)-5-(6-benzylaminocarbonyl-3-methylthio-1,2,4-triazin-5-ylamino)-1H-indole
To a stirred mixture of 3-(2-dimethylaminoethyl)-5-(6-ethoxycarbonyl-3-methylthio-1,2,4-triazin-5-ylamino)-1H-indole (0.25 g, 0.62 mmol) in methylene chloride (5 mL) at room temperature under nitrogen was added dropwise benzylamine (0.14 mL, 1.25 mmol, 2.0 eq). The resulting reaction mixture was stirred at room temperature under nitrogen for 48 hours, and then filtered. The resulting yellow solid was recrystallized from methanol: ethyl acetate (4:1) to afford the title compound (0.063 g, 22%) as a yellow solid: mp, 207.0°-209.0° C.; FAB HRMS calculated for [C24H27N7OS.H+ ]482.2079, found 462.2054. Anal. calcd. for C24H27N7OS.3/4 H2O: C, 60.67; H, 6.05; N, 20.63. Found: C, 60.58; H, 5.73; N, 20.58.

reactant | 3-(2-dimethylaminoethyl)-5-(6-ethoxycarbonyl-3-methylthio-1,2,4-triazin-5-ylamino)-1H-indole | 0.62 mmol, 0.25 g | CN(CCC1=CNC2=CC=C(C=C12)NC=1N=C(N=NC1C(=O)OCC)SC)C | C19H24N6O2S
reactant | benzylamine | 1.25 mmol, 0.14 mL, 2.0 eq | C(C1=CC=CC=C1)N | C7H9N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Dimethylaminoethyl)-5-(6-benzylaminocarbonyl-3-methylthio-1,2,4-triazin-5-ylamino)-1H-indole | 0.063 g, 22% | CN(CCC1=CNC2=CC=C(C=C12)NC=1N=C(N=NC1C(=O)NCC1=CC=CC=C1)SC)C | C24H27N7OS
